US05585497
1-Hydrazino-4-nitronaphthalene hydrochloride
A solution of 1.9 g of sodium nitrite in 10 ml of water is added to a suspension, cooled to -5° C., of 5.2 g of 4-nitro-1-naphthylamine in 150 ml of concentrated HCl, 100 ml of 1N HCl and 150 ml of AcOH. The mixture is left stirring for 1 hour 15 minutes at a temperature of between -5° C. and 0° C. It is cooled to -15° C., and a solution of 12.5 g of stannous chloride dihydrate in 30 ml of concentrated HCl is added very slowly. The temperature is allowed to rise to RT and the reaction mixture is kept stirring for 2 hours 30 minutes. It is filtered, the solid is then taken up with water and the mixture is filtered again. 5.9 g of the expected product are obtained.

reactant | sodium nitrite | 1.9 g | N(=O)[O-].[Na+]
reactant | 4-nitro-1-naphthylamine | 5.2 g | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)N | C10H8N2O2
reactant | HCl | 150 ml | Cl | ClH
reactant | HCl | 1N, 100 ml | Cl | ClH
reactant | HCl | 30 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | AcOH | 150 ml | CC(=O)O | C2H4O2
product | 1-Hydrazino-4-nitronaphthalene hydrochloride | 5.9 g | Cl.N(N)C1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | InChI=1S/C10H9N3O2.ClH/c11-12-9-5-6-10(13(14)15)8-4-2-1-3-7(8)9;/h1-6,12H,11H2;1H
